US07714009B2
7-((Dipropylamino)methyl)-N-mesityl-1,3-benzothiazol-2-amine
To 0.045 g (0.12 mmol) of 7-(bromomethyl)-N-mesityl-1,3-benzothiazol-2-amine in 0.5 mL of acetonitrile and 2 mL of dichloromethane was added 0.086 g (0.62 mmol) of potassium carbonate and 85 μl, (0.62 mmol) of dipropylamine. The reaction was stirred for 40 min, diluted with dichloromethane and filtered. The filtrate was concentrated and purified by flash chromatography eluting with a 25% ethyl acetate/hexanes mixture to give 0.027 g (57%) of the title compound as a light yellow powder.

reactant | 7-(bromomethyl)-N-mesityl-1,3-benzothiazol-2-amine | 0.12 mmol, 0.045 g | BrCC1=CC=CC=2N=C(SC21)NC2=C(C=C(C=C2C)C)C | C17H17BrN2S
reactant | potassium carbonate | 0.62 mmol, 0.086 g | C([O-])([O-])=O.[K+].[K+]
reactant | dipropylamine | 0.62 mmol | C(CC)NCCC | C6H15N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 7-((Dipropylamino)methyl)-N-mesityl-1,3-benzothiazol-2-amine | 0.027 g, 57% | C(CC)N(CCC)CC1=CC=CC=2N=C(SC21)NC2=C(C=C(C=C2C)C)C | C23H31N3S
